US08912330B2
1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-6-(1-methyl-1H-indol-5-yl)-1H-pyrrolo[3,2-b]pyridine
The entitled compound was prepared from 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine and (1-methyl-1H-indol-5-yl)boronic acid according to the procedure described in example 4.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | (1-methyl-1H-indol-5-yl)boronic acid | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
product | 1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-6-(1-methyl-1H-indol-5-yl)-1H-pyrrolo[3,2-b]pyridine | ClC1=C(C(=CC=C1F)Cl)C(C)ON1C=CC2=NC=C(C=C21)C=2C=C1C=CN(C1=CC2)C | C24H18Cl2FN3O
